US06797708B2
Benzhydryl-(4-nitro-2-iodo-phenyl)-amine (1 eq.), 4-(6-hydroxy-hex-3-ynyloxy)-benzoic acid methyl ester (1.5 eq.), LiCl (1 eq.) KOAc (5 eq.) and palladium (II) acetate (0.04 eq.) were added to a roundbottom containing 10 mL of DMF that had been degassed with argon. The reaction heated to 100° C 7.5 hours. It was then cooled, diluted with ethyl acetate, washed with water and brine, dried over Na2SO4 and concentrated to give a brown solid. Purification by flash chromatography gave two products, 4-{2-[1-benzhydryl-5-nitro-2-(2-hydroxy-ethyl)-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester and the desired, 4-{2-[1-benzhydryl-5-nitro-3-(2-hydroxy-ethyl)-1H-indol-2-yl]-ethoxy}-benzoic acid methyl ester in an overall yield of 71%. The products were not seperable by flash chromatography and were both carried on to the next step. 1H NMR (400 MHz, CDCl3) □ ppm 1.66 (t, J=5.56 Hz, 1 H), 1.80 (t, J=5.18 Hz, 1 H), 3.14 (m, 4 H), 3.35 (m, 4 H), 3.81 (m, 2 H), 3.87 (m, J=1.52 Hz, 6 H), 3.97 (q, J=6.32 Hz, 2 H), 4.10 (t, J=6.82 Hz, 2 H), 4.31 (t, J=6.19 Hz, 2 H), 6.58 (d, J=4.04 Hz, 1 H), 6.60 (d, J=4.04 Hz, 1 H), 6.67 (d, J=9.10 Hz, 2 H), 6.89 (d, J=8.84 Hz, 2 H), 7.10 (m,9 H), 7.20 (s,1 H), 7.32 (m, 12 H), 7.75 (m, 2 H), 7.90 (d, J=8.84 Hz, 2 H), 7.95 (d, J=9.09 Hz, 2 H), 8.52 (d, J=2.27 Hz, 1 H), 8.59 (d, J=2.27 Hz, 1 H).

reactant | Benzhydryl-(4-nitro-2-iodo-phenyl)-amine | 1 eq. | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])I | C19H15IN2O2
reactant | 4-(6-hydroxy-hex-3-ynyloxy)-benzoic acid methyl ester | 1.5 eq. | COC(C1=CC=C(C=C1)OCCC#CCCO)=O | C14H16O4
reactant | LiCl | 1 eq. | [Li+].[Cl-]
catalyst | palladium (II) acetate | 0.04 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-{2-[1-benzhydryl-5-nitro-2-(2-hydroxy-ethyl)-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester | yield of 71% | COC(C1=CC=C(C=C1)OCCC1=C(N(C2=CC=C(C=C12)[N+](=O)[O-])C(C1=CC=CC=C1)C1=CC=CC=C1)CCO)=O | C33H30N2O6
